US06313122B1
B. 5-(tert-Butyldimethylsilyloxy)-2-phthalimido-1-nitrobenzene
A mixture of 2-nitro-4-(tert-butyldimethylsilyloxy)aniline (10.3 g,38.5 mmol) and phthalic anhydride (6.50 g, 41.5 mmol) in toluene (30 mL) was refluxed for 18 h. A Dean-Stark apparatus was fitted to the flask, diisopropylethylamine (0.1 mL) was added and water was removed azeotropically over the next 24 h. About 20 mL of solvent was removed by distillation and the resultant solution allowed to cool to room temperature. The residue was diluted with methylene chloride and passed through a plug of silica gel eluting with methylene chloride. The desired fractions were combined and concentrated in vacuo. Recrystallization from methylene chloride-hexane provided 12.2 g (80%) of the title compound in two crops.

reactant | 2-nitro-4-(tert-butyldimethylsilyloxy)aniline | 38.5 mmol, 10.3 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)O[Si](C)(C)C(C)(C)C | C12H20N2O3Si
reactant | phthalic anhydride | 41.5 mmol, 6.50 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | diisopropylethylamine | 0.1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(tert-Butyldimethylsilyloxy)-2-phthalimido-1-nitrobenzene | 12.2 g, 80% | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)[N+](=O)[O-])N1C(C=2C(C1=O)=CC=CC2)=O | C20H22N2O5Si
